US06313153B1
Synthesis of ethyl [3-[1-hydroxy-2-((E) -3-(3-pyridyl)acryloylamino]ethyl]phenoxy]acetate (Compound 159)
(E)-N-[2-(3-hydroxyphenyl)-2-hydroxyethyl]-3-(3-pyridyl)-2-propenoic acid amide (5.68 g, 20 mmol) and ethyl chloroacetate (5.2 ml, 48 mmol) were dissolved in dimethylformamide (60 ml) and potassium carbonate (8.28 g, 60 mmol) was added and stirred at 50° C. for 7 hours. After allowing to cool, insoluble materials were filtered out and water was added to the filtrate, extracted with ethyl acetate and dried over magnesium sulfate. The solvent was distilled out under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:hexane:methanol=20:2:1) and dried under reduced pressure to yield the titled compound (3.80 g, 51%).

reactant | (E)-N-[2-(3-hydroxyphenyl)-2-hydroxyethyl]-3-(3-pyridyl)-2-propenoic acid amide | 20 mmol, 5.68 g | OC=1C=C(C=CC1)C(CNC(\C=C\C=1C=NC=CC1)=O)O | C16H16N2O3
reactant | ethyl chloroacetate | 48 mmol, 5.2 ml | ClCC(=O)OCC | C4H7ClO2
reactant | potassium carbonate | 60 mmol, 8.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | ethyl [3-[1-hydroxy-2-((E) -3-(3-pyridyl)acryloylamino]ethyl]phenoxy]acetate | 3.80 g, 51% | OC(CNC(\C=C\C=1C=NC=CC1)=O)C=1C=C(OCC(=O)OCC)C=CC1 | C20H22N2O5
